US04563310
Following the procedure of Example 11, 4-(2-nitro-4-trifluoromethylanilino)-1,2-dinitrobenzene and dimethyl ethylphosphonite are reacted together to give methyl P-ethyl-2-nitro-5-(2-nitro-4-trifluoromethylanilino)-phenylphosphinate.

reactant | 4-(2-nitro-4-trifluoromethylanilino)-1,2-dinitrobenzene | [N+](=O)([O-])C1=C(NC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H7F3N4O6
reactant | dimethyl ethylphosphonite | C(C)P(OC)OC | C4H11O2P
product | methyl P-ethyl-2-nitro-5-(2-nitro-4-trifluoromethylanilino)-phenylphosphinate | C(C)P(OC)(=O)C1=C(C=CC(=C1)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C16H15F3N3O6P
